US07390923B2
N-(4-Cyano-3-methylphenyl)-3-(4-fluorophenoxy)-2-hydroxy-2-methylpropionamide was prepared as described in Example 1 starting from 4-fluorophenol and 2-methyl-oxirane-2-carboxylic acid (4-cyano-3-methylphenyl)amide. 1H NMR (DMSO-d6): 1.42 (3H, s), 2.44 (3H, s), 3.94 (1H, d, J=9.6 Hz), 4.18 (1H, d, J=9.6 Hz), 6.18 (1H, bs), 6.93 (2H, m), 7.08 (2H, m), 7.69 (1H, d, J=9.0 Hz), 7.78 (1H, dd, J=9.0 Hz and 2.1 Hz), 7.93 (1H, d, J=2.1 Hz), 10.02 (1H, s).

reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-methyl-oxirane-2-carboxylic acid (4-cyano-3-methylphenyl)amide | C(#N)C1=C(C=C(C=C1)NC(=O)C1(OC1)C)C | C12H12N2O2
product | N-(4-Cyano-3-methylphenyl)-3-(4-fluorophenoxy)-2-hydroxy-2-methylpropionamide | C(#N)C1=C(C=C(C=C1)NC(C(COC1=CC=C(C=C1)F)(C)O)=O)C | C18H17FN2O3
